US07135469B2
[6-(2-Hydroxy-ethyl)-1-(4-methoxy-phenyl)-3-trifluoromethyl-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one
Part B: Acetic acid 2-[1-(4-methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-ethyl ester (1.26 g, 3.17 mmol) was dissolved in methanol (100 mL) and water (5 mL). Potassium carbonate (1.31 g, 9.52 mmol) was added, and the reaction was stirred overnight at rt. The reaction was concentrated, quenched with water (250 mL), extracted with ethyl acetate (3×250 mL), washed with brine (1×100 mL), dried over MgSO4, concentrated, and purified by flash chromatography with 0–100% ethyl acetate/hexanes gradient as eluent to afford the title compound (1.01 g, 90%): 1HNMR(CDCl3) δ 7.45 (d, j=9.2 Hz, 2H), 6.96 (d, j=8.7 Hz, 2H), 3.84 (s, 3H), 3.82–3.77 (m, 4H), 3.66 (t, j=5.1 Hz, 2H), 3.03 (t, j=6.8 Hz, 2H) ppm; Mass Spec 356.3(M+H)+.

reactant | Acetic acid 2-[1-(4-methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-ethyl ester | 3.17 mmol, 1.26 g | COC1=CC=C(C=C1)N1N=C(C2=C1C(N(CC2)CCOC(C)=O)=O)C(F)(F)F | C18H18F3N3O4
reactant | Potassium carbonate | 9.52 mmol, 1.31 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 100 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 6-(2-Hydroxy-ethyl)-1-(4-methoxy-phenyl)-3-trifluoromethyl-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one | 1.01 g, 90% | OCCN1C(C2=C(CC1)C(=NN2C2=CC=C(C=C2)OC)C(F)(F)F)=O | C16H16F3N3O3
